US07785573B2
A 2-L, 4-neck, round-bottom flask, fitted with a thermometer, mechanical stirrer, nitrogen inlet tube and Liebig condenser/receiving flask, was charged with 612.8 g (6.00 mol, 1.00 equiv) of pentanoic acid, 733.0 g (6.00 mol, 1.00 equiv) of 2-phenylethanol, and 2.50 g (0.2 wt. %) of tin oxalate (Fascat® 2001). The air was removed with three cycles of evacuation/nitrogen-fill using a mechanical vacuum pump (50-100 torr). The rate of stirring was set at ca. 200 rpm, the nitrogen sparge was set at 0.1 scfh, and the reaction mixture was heated to 170° C. After a 1-h hold, 159.3 g of distillate had been collected. It was not possible to get a clean separation; therefore, the organic layer was not returned to the reaction mixture. The temperature was increased to 180, 190, 200 and 210° C. and held for 1 h at each; the amounts of distillate were 21.4, 9.8, 4.9 and 2.2 g, respectively. The acid number was 2.88 mg KOH/g (99.0% conversion). The excess 2-phenylethanol (6.3% by GLC) was removed by vacuum distillation through a 15-cm Vigreux column at 140-165° C. (15-20 torr). The crude product was distilled at 150-155° C. (10 torr, 0.5 scfh nitrogen sweep) to afford 925 g (75%) of 2-phenylethyl pentanoate (99.3% pure by GLC): residual alcohol, 0.3% (GLC); APHA color, 13; acid number, 0.06 mg KOH/g; saponification number, 271 mg KOH/g (theor. 272 mg KOH/g).

reactant | pentanoic acid | 6.00 mol, 612.8 g, 1.00 equiv | C(CCCC)(=O)O | C5H10O2
reactant | 2-phenylethanol | 6.00 mol, 733.0 g, 1.00 equiv | C1(=CC=CC=C1)CCO | C8H10O
catalyst | tin oxalate | 2.50 g | C(C(=O)[O-])(=O)[O-].[Sn+4].C(C(=O)[O-])(=O)[O-]
product | 2-phenylethyl pentanoate | 925 g | C(CCCC)(=O)OCCC1=CC=CC=C1 | C13H18O2
